data/mechanism_extracts/OrgLett/10.1021_acs.orglett.5c00929.json
{"doi": "10.1021_acs.orglett.5c00929", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical formal C-C cleavage of 1,3-diaryl-1,3-diketones with aryl alkenes and water to give 1,4-ketoalcohol benzoate esters via anodic oxidation", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation: deprotonated 1,3-diketone enolate is oxidized at the anode to an α-keto C-centered radical; a second anodic oxidation converts the alkene-adduct radical to a benzylic cation; cathode reduces protons/water to H2", "key_intermediates": [{"name": "1,3-diketone carbanion/enolate (I')", "smiles": "[O-]C(=C(C(=O)c1ccccc1))c1ccccc1", "role": "reactive"}, {"name": "α-keto C-centered radical (II) from 1,3-diphenyl-1,3-diketone", "smiles": "O=C(c1ccccc1)[CH]C(=O)c1ccccc1", "role": "reactive"}, {"name": "benzylic C-radical adduct (III) from radical addition to styrene", "smiles": "O=C(c1ccccc1)C(C(=O)c1ccccc1)C[CH]c1ccccc1", "role": "transient"}, {"name": "benzylic carbocation (IV)", "smiles": "O=C(c1ccccc1)C(C(=O)c1ccccc1)C[CH+]c1ccccc1", "role": "reactive"}, {"name": "benzylic alcohol intermediate (V) after water trapping", "smiles": "O=C(c1ccccc1)C(C(=O)c1ccccc1)CC(O)c1ccccc1", "role": "transient"}, {"name": "hemiketal intermediate (VI) preceding C-C cleavage/rearrangement", "smiles": null, "role": "transient"}, {"name": "TEMPO adduct 6 (α-keto C trapped)", "smiles": null, "role": "off_pathway"}, {"name": "dimer 7 from coupling of α-keto radicals (in absence of alkene)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Base/anode deprotonates and oxidizes the 1,3-diketone to an α-keto radical, which adds to the styrene to give a benzylic radical; a second anodic oxidation forms a benzylic cation that is trapped by water, and the resulting hemiketal rearranges with C-C cleavage to deliver the 1,4-ketoalcohol ester while the cathode evolves H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction strongly inhibited; TEMPO adduct 6 of the α-keto radical isolated in 44% yield, supporting an α-keto C-radical intermediate"}, {"name": "Omission of alkene (styrene 2a)", "smiles": null, "purpose": "intermediate_trap", "observation": "Dimer 7 of two α-keto radicals isolated in 23%, confirming generation of the α-keto radical"}, {"name": "H2 18-O labeled water", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O is incorporated into the ester/alcohol of 3a (HRMS), showing water is the oxygen source"}, {"name": "Cyclic voltammetry of 1a vs 2a", "smiles": null, "purpose": "redox_probe", "observation": "1a oxidizes at 2.03 V (vs SCE), lower than styrene 2a at 2.20 V, so the diketone is preferentially oxidized at the anode"}], "evidence_types_used": ["intermediate_trap_TEMPO", "H/D_labeling", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors note that concerted proton-coupled electron transfer (loss of H+ and e- simultaneously) from 1a cannot be fully excluded as an alternative to stepwise deprotonation/oxidation to form the α-keto radical (II). Substrate scope (failure of 3ae-3ah) suggests aryl substitution on both diketone and alkene is required, consistent with stabilization of radical/cation intermediates."}
